US07420083B2
This compound was produced using similar methods as those used in Step 6, example 28, starting with 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid methyl ester (0.31 g, 0.52 mmol), 1:1 methanol:tetrahydrofuran (10 mL) and 4N aqueous lithium hydroxide solution (0.39 mL). The crude material was crystallized from hot chloroform (10 mL) by the addition of room temperature hexanes (100 mL), and allowing the mixture to sit for 2 hours. The product was isolated and then triturated with hexanes to give 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid (0.29 g, 95%) as a white solid. mp=194.5-195.5° C. 1H NMR (500 MHz, DMSO-d6); δ 13.49 (bs, 1H), 12.46 (s, 1H), 8.40 (s, 1H), 8.31 (s, 1H), 8.05 (d, 2H), 8.00 (d, 1H), 7.70-7.66 (m, 6H), 7.58 (d, 2H), 7.46 (t, 2H), 7.37(t, 1H), 6.81 (d, 1H), 4.31 (t, 2H), 4.22 (t, 2H), 2.18 (m, 2H). Mass spec (MW 578.54); (ES+) m/z 577.43 Elemental analysis; Calculated for C31H25F3N2O6: C, 64.36; H, 4.36; N, 4.84. Found: C, 63.78; H, 4.18; N, 4.77.

reactant | 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid methyl ester | 0.52 mmol, 0.31 g | COC(C1=C(C=C(C=C1)OCCCO/N=C/C1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C32H27F3N2O6
reactant | methanol | CO | CH4O
reactant | lithium hydroxide | 4N, 0.39 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[4-(trifluoromethoxy)benzoyl]amino}benzoic acid | 0.29 g, 95% | C1(=CC=C(C=C1)\C=N\OCCCOC1=CC(=C(C(=O)O)C=C1)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)C1=CC=CC=C1 | C31H25F3N2O6
